US05143912
A suspension of 18.1 g of 9-chloro-6-imino-4-oxo-3-phenyl-6H-pyrido[2,1-a]isoindole-1-carboxylic acid and 18 g of 10 percent palladium/carbon in 900 ml of methanol was treated with 16.3 g of ammonium formate and then heated to boiling under reflux for 90 minutes. The treatment with ammonium formate and subsequent heating were repeated once, whereupon the catalyst was filtered off, the solvent was removed in a vacuum and the residue was taken up in 150 ml of water. The mixture was acidified with 1N hydrochloric acid, the crystals were filtered off under suction and washed with water. There were obtained 12.55 g of 4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxylic acid with a m.p. of 277°-278° (decomposition).

reactant | 9-chloro-6-imino-4-oxo-3-phenyl-6H-pyrido[2,1-a]isoindole-1-carboxylic acid | 18.1 g | ClC1=CC=C2C(N3C(C2=C1)=C(C=C(C3=O)C3=CC=CC=C3)C(=O)O)=N | C19H11ClN2O3
reactant | ammonium formate | 16.3 g | C(=O)[O-].[NH4+]
solvent | methanol | 900 ml | CO | CH4O
catalyst | palladium/carbon | 18 g | [Pd] | Pd
product | 4,6-dihydro-4-oxo-3-phenylpyrido[2,1-a]isoindole-1-carboxylic acid | 12.55 g | O=C1C(=CC(=C2N1CC1=CC=CC=C21)C(=O)O)C2=CC=CC=C2 | C19H13NO3
